US09447084B2
1-amino-3-(2,2,2-trifluoroethyl)imidazolidin-2-one
Into a 250-mL round-bottom flask, was placed a solution of phenyl N-(2-chloroethyl)-N-(2,2,2-trifluoroethyl)carbamate (5.6 g, 19.88 mmol, 1.00 equiv) in ethanol (100 mL), NH2NH2.H2O (10 mL, 80%). The resulting solution was heated to reflux overnight in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate (1:1). This resulted in 0.8 g (22%) of 1-amino-3-(2,2,2-trifluoroethyl)imidazolidin-2-one as colorless oil. (ES, m/z): 184 [M+H]+

reactant | phenyl N-(2-chloroethyl)-N-(2,2,2-trifluoroethyl)carbamate | 19.88 mmol, 5.6 g, 1.00 equiv | ClCCN(C(OC1=CC=CC=C1)=O)CC(F)(F)F | C11H11ClF3NO2
reactant | NH2NH2.H2O | 10 mL | NN.O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-amino-3-(2,2,2-trifluoroethyl)imidazolidin-2-one | NN1C(N(CC1)CC(F)(F)F)=O | C5H8F3N3O
